US04889858
To 15 g of 4-fluoro-2-[(4-fluorophenyoxy)methyl]benzoic acid is added 60 g of thionyl chloride and the mixture is refluxed with heating for 1 hour. After cooling the reaction mixture to room temperature, dry toluene is added and the solvent is distilled off under reduced pressure. The residue is added with dichloromethane and the mixture is cooled to 0° C. and added with 15 g of powdery anhydrous aluminum chloride, which is stirred for 15 minutes. The reaction mixture is added with ice-water and extracted with toluene. After the extract is successively washed with water and a saturated saline solution and dried over magnesium sulfate, the solvent is distilled off under reduced pressure. The residue is subjected to silica-gel chromatography and eluted with toluene to give 9.1 g of 2,8-difluoro-6,11-dihydrodibenz[b,e]oxepin-11-one (oil). Mass spectrum m/z: 246(M+).

reactant | 4-fluoro-2-[(4-fluorophenyoxy)methyl]benzoic acid | 15 g | FC1=CC(=C(C(=O)O)C=C1)COC1=CC=C(C=C1)F | C14H10F2O3
reactant | thionyl chloride | 60 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,8-difluoro-6,11-dihydrodibenz[b,e]oxepin-11-one | 9.1 g | FC1=CC2=C(OCC3=C(C2=O)C=CC(=C3)F)C=C1 | C14H8F2O2
